US08536323B2
5-[3-(trifluoroacetamido)propynyl]cytidine (1.25 g, 3.19 mmol, 1.00 equiv.) was dissolved in methanol (30 mL). Palladium hydroxide (0.25 g, 20 wt./wt. % based on propynyl cytidine) and triethylsilane (3.71 g, 31.90 mmol, 10.00 equiv.) were added to the reaction mixture. After 20-24 hours at ambient temperature, the reaction mixture was filtered through glass fiber and the filtrate was concentrated under reduced pressure giving a dark brown residue. The residue was purified by flash chromatography. Removal of solvent from the appropriate fractions afforded 0.85 g (71%) of 5-[3-(trifluoroacetamido)propyl]cytidine as a cream colored solid, which was confirmed by 1H-NM.

reactant | 5-[3-(trifluoroacetamido)propynyl]cytidine | 3.19 mmol, 1.25 g, 1.00 equiv. | FC(C(=O)NCC#CC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)N)(F)F | C14H15F3N4O6
reactant | triethylsilane | 31.90 mmol, 3.71 g, 10.00 equiv. | C(C)[SiH](CC)CC | C6H16Si
solvent | methanol | 30 mL | CO | CH4O
catalyst | Palladium hydroxide | 0.25 g | [OH-].[Pd+2].[OH-]
product | 5-[3-(trifluoroacetamido)propyl]cytidine | 0.85 g, 71% | FC(C(=O)NCCCC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)N)(F)F | C14H19F3N4O6
